US08053438B2
STEP 4: 4-(3-CHLOROPYRAZIN-2-YLOXY)-N-METHOXY-N-METHYLBENZAMIDE
A mixture of 4-hydroxy-N-methoxy-N-methylbenzamide (6.50 g, 35.9 mmol), 2,3-dichloropyrazine (6.95 g, 46.6 mmol), and potassium carbonate (12.40 g, 90 mmol) in acetonitrile (70 mL) was heated at reflux in 18 h. The reaction mixture was cooled, concentrated, taken up in H2O, extracted with EtOAc, dried over MgSO4, concentrated and purified by ISCO (50% EtOAc/Hexanes) to give the titled compound. MS [M+1]: 294.1.

reactant | 4-hydroxy-N-methoxy-N-methylbenzamide | 35.9 mmol, 6.50 g | OC1=CC=C(C(=O)N(C)OC)C=C1 | C9H11NO3
reactant | 2,3-dichloropyrazine | 46.6 mmol, 6.95 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | potassium carbonate | 90 mmol, 12.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 4-(3-CHLOROPYRAZIN-2-YLOXY)-N-METHOXY-N-METHYLBENZAMIDE | ClC=1C(=NC=CN1)OC1=CC=C(C(=O)N(C)OC)C=C1 | C13H12ClN3O3
